US08115005B2
1-{2-[4-(4-Difluoromethyl-5-methyl-pyrazol-1-yl)-phenoxy]-ethyl}-piperidine:
A mixture of 4-(4-Difluoromethyl-5-methyl-pyrazol-1-yl)-phenol (30 mg, 0.134 mmol), 1-(2-chloroethyl)piperidine hydrochloride (50 mg, 0.27 mmol), K2CO3 (55 mg, 0.4 mmol), in DMF (1 mL) was stirred at 90° C. for 18 h. After the reaction mixture was quenched with water, the reaction mixture was extracted with CH2Cl2, washed 10% NaOH, and brine, dried over Na2SO4. After concentrated in vacuo, the residue was purified by a column chromatography on silica gel eluting with 20% ethyl acetate/hexane to yield the title compound (25 mg, 56%); 1H NMR (400 MHz, CDCl3) 7.70 (br s, 1H), 7.30 (d, J=13.2 Hz, 1H), 7.00 (d, J=13.2 Hz, 2H), 6.71 (t, J=96, 52 Hz, 1H), 4.16 (t, J=12, 6 Hz, 2H), 2.65 (t, J=12, 6 Hz, 2H), 2.53 (br, 4H), 2.34 (s, 3H), 1.61-1.47 (m, 6H); LC/MS (ESI) m/z: 336 (M+1, 100), 97%.

reactant | 4-(4-Difluoromethyl-5-methyl-pyrazol-1-yl)-phenol | 0.134 mmol, 30 mg | FC(C=1C=NN(C1C)C1=CC=C(C=C1)O)F | C11H10F2N2O
reactant | 1-(2-chloroethyl)piperidine hydrochloride | 0.27 mmol, 50 mg | Cl.ClCCN1CCCCC1
reactant | K2CO3 | 0.4 mmol, 55 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 1-{2-[4-(4-Difluoromethyl-5-methyl-pyrazol-1-yl)-phenoxy]-ethyl}-piperidine | 25 mg, 56% | FC(C=1C=NN(C1C)C1=CC=C(OCCN2CCCCC2)C=C1)F | C18H23F2N3O
